US06107329
5-Chloro-1H-indole-2-carboxylic acid [(1S)-(4-chloro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide
(S)-2-Amino-3-(4-chloro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride (0.98 mmol) and 5-chloro-1H-indole-2-carboxylic acid (0.92 mmol) were coupled according to Procedure A and the product purified by chromatography on silica gel eluted with 50, 75 and 100% ethyl acetate in hexanes. Yield 362 mg, 86%; HPLC (60/40) 5.06 minutes (97%); mp 227-229° C.; TSPMS 460/462 (MH+, 100%);

reactant | (S)-2-Amino-3-(4-chloro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride | 0.98 mmol | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)Cl
reactant | 5-chloro-1H-indole-2-carboxylic acid | 0.92 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 5-Chloro-1H-indole-2-carboxylic acid [(1S)-(4-chloro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide | ClC1=CC=C(C[C@@H](C(=O)N2CCC(CC2)O)NC(=O)C=2NC3=CC=C(C=C3C2)Cl)C=C1 | C23H23Cl2N3O3
